US04152441
B. Preparation of α,α-bis(p-fluorophenyl)imidazole-2-methanol.
A mixture of 10 g. (0.0227 mol) of α,α-bis(p-fluorophenyl)-1-(toluene-p-sulphonyl)imidazole-2-methanol, 34 ml. of 2 N hydrochloric acid solution (0.0681 mol) and 225 ml. of water was boiled under reflux for 5 hours. After cooling, the mixture was made alkaline by addition of ammonia. The base obtained was crystallised from isopropyl alcohol; its melting point was 198°-200° C.

reactant | α,α-bis(p-fluorophenyl)-1-(toluene-p-sulphonyl)imidazole-2-methanol | 0.0227 mol | FC1=CC=C(C=C1)C(O)(C=1N(C=CN1)S(=O)(=O)C1=CC=C(C=C1)C)C1=CC=C(C=C1)F | C23H18F2N2O3S
reactant | hydrochloric acid | 0.0681 mol, 2 N | Cl | ClH
reactant | ammonia | N | H3N
solvent | water | O | H2O
product | α,α-bis(p-fluorophenyl)imidazole-2-methanol | FC1=CC=C(C=C1)C(O)(C=1NC=CN1)C1=CC=C(C=C1)F | C16H12F2N2O
